.title kicad schematic

.include NPN.lib
.include PNP.lib
.include D.lib
q15 net-_q13-pad2_ net-_i1-pad2_ net-_q15-pad3_ Q2N2222
q16 net-_i1-pad2_ net-_i1-pad2_ net-_q16-pad3_ Q2N2222
r12 gnd net-_q15-pad3_ 10k
r13 gnd net-_q16-pad3_ 10k
q8 net-_q5-pad3_ net-_i1-pad2_ net-_q8-pad3_ Q2N2222
r9 gnd net-_q8-pad3_ 10k
q6 net-_q11-pad2_ net-_q10-pad1_ net-_q6-pad3_ Q2N2907A
d1 output net-_d1-pad2_ 1N4148
r5 net-_q3-pad1_ net-_d1-pad2_ 16k
r6 net-_r4-pad2_ net-_q3-pad3_ 1k
r4 gnd net-_r4-pad2_ 10k
r7 gnd net-_r4-pad2_ 10k
q2 net-_c1-pad2_ net-_r3-pad1_ e Q2N2222
q3 net-_q3-pad1_ q19 net-_q3-pad3_ Q2N2222
* u6 q19 plot_v1
r3 net-_r3-pad1_ q19 5k
r16 gnd q19 10k
* u5 e plot_v1
q1 net-_c1-pad2_ net-_r3-pad1_ e Q2N2222
r1 net-_q3-pad3_ e 17k
r2 net-_c1-pad2_ net-_d1-pad2_ 51k
* u2 input plot_v1
v1 input gnd  dc 15
q19 net-_q17-pad3_ net-_q18-pad3_ output Q2N2222
* u1 output plot_v1
r14 net-_q17-pad3_ input 1k
c3 input gnd 0.1u
i1 input net-_i1-pad2_ 50u
q17 net-_q13-pad3_ input net-_q17-pad3_ Q2N2222
q18 net-_q17-pad3_ dv1 net-_q18-pad3_ Q2N2222
d3 dv2 net-_d3-pad2_ 1N4148
r17 unconnected-_r17-pad1_ q19 100k
q14 net-_q13-pad2_ net-_q13-pad2_ input Q2N2907A
c2 output gnd 0.1u
r15 q19 output 73k
q10 net-_q10-pad1_ net-_q10-pad1_ net-_q10-pad3_ Q2N2907A
r8 net-_q6-pad3_ input 10k
r10 net-_q10-pad3_ input 10k
r11 net-_q13-pad3_ input 10k
q13 dv1 net-_q13-pad2_ net-_q13-pad3_ Q2N2907A
* u3 dv2 plot_v1
d2 dv1 dv2 1N4148
* u4 dv1 plot_v1
q12 gnd net-_c1-pad1_ net-_d3-pad2_ Q2N2907A
c1 net-_c1-pad1_ net-_c1-pad2_ 30p
q7 net-_c1-pad1_ net-_d1-pad2_ net-_q7-pad3_ Q2N2222
q4 net-_q11-pad2_ net-_d1-pad2_ net-_q4-pad3_ Q2N2222
q5 net-_q4-pad3_ net-_q3-pad1_ net-_q5-pad3_ Q2N2222
q9 net-_q7-pad3_ net-_c1-pad2_ net-_q5-pad3_ Q2N2222
q11 net-_c1-pad1_ net-_q11-pad2_ net-_q10-pad1_ Q2N2907A
.tran 10e-03 20e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(q19)
plot v(e)
plot v(input)
plot v(output)
plot v(dv2)
plot v(dv1)
.endc
.end
