.title kicad schematic

* u10 net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ d_xnor
* u11 net-_u11-pad1_ net-_u11-pad2_ net-_u11-pad3_ d_xnor
* u12 net-_u12-pad1_ net-_u12-pad2_ net-_u12-pad3_ d_xnor
* u13 net-_u13-pad1_ net-_u13-pad2_ net-_u13-pad3_ d_xnor
* u18 a plot_v1
* u17 b plot_v1
* u15 d plot_v1
* u16 c plot_v1
* u14 net-_u12-pad3_ net-_u13-pad3_ net-_u10-pad3_ net-_u11-pad3_ a b c d dac_bridge_4
* u9 i1 i2 i3 i4 i5 i6 i7 i8 net-_u12-pad1_ net-_u12-pad2_ net-_u13-pad1_ net-_u13-pad2_ net-_u10-pad1_ net-_u10-pad2_ net-_u11-pad1_ net-_u11-pad2_ adc_bridge_8
* u8 i1 plot_v1
v3 i4 gnd pulse(0 5 0 1n 1n 1m 2m)
v4 i3 gnd pulse(0 5 0 1n 1n 2m 4m)
v8 i1 gnd pulse(0 5 0 1n 1n 4m 8m)
v7 i2 gnd pulse(0 5 0 1n 1n 8m 16m)
* u7 i2 plot_v1
* u6 i8 plot_v1
* u4 i7 plot_v1
* u1 i5 plot_v1
* u2 i6 plot_v1
v2 i6 gnd pulse(0 5 0 1n 1n 16m 32m)
v1 i5 gnd pulse(0 5 0 1n 1n 32m 64m)
v6 i8 gnd pulse(0 5 0 1n 1n 64m 128m)
v5 i7 gnd pulse(0 5 0 1n 1n 128m 256m)
* u5 i3 plot_v1
* u3 i4 plot_v1
a1 [net-_u10-pad1_ net-_u10-pad2_ ] net-_u10-pad3_ u10
a2 [net-_u11-pad1_ net-_u11-pad2_ ] net-_u11-pad3_ u11
a3 [net-_u12-pad1_ net-_u12-pad2_ ] net-_u12-pad3_ u12
a4 [net-_u13-pad1_ net-_u13-pad2_ ] net-_u13-pad3_ u13
a5 [net-_u12-pad3_ net-_u13-pad3_ net-_u10-pad3_ net-_u11-pad3_ ] [a b c d ] u14
a6 [i1 i2 i3 i4 i5 i6 i7 i8 ] [net-_u12-pad1_ net-_u12-pad2_ net-_u13-pad1_ net-_u13-pad2_ net-_u10-pad1_ net-_u10-pad2_ net-_u11-pad1_ net-_u11-pad2_ ] u9
* Schematic Name:                             d_xnor, Ngspice Name: d_xnor
.model u10 d_xnor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_xnor, Ngspice Name: d_xnor
.model u11 d_xnor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_xnor, Ngspice Name: d_xnor
.model u12 d_xnor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_xnor, Ngspice Name: d_xnor
.model u13 d_xnor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_4, Ngspice Name: dac_bridge
.model u14 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, Ngspice Name: adc_bridge
.model u9 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 10e-03 5e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(a)
plot v(b)
plot v(d)
plot v(c)
plot v(i1)
plot v(i2)
plot v(i8)
plot v(i7)
plot v(i5)
plot v(i6)
plot v(i3)
plot v(i4)
.endc
.end
